* ===================================================================
* egan.lib -- Behavioural enhancement-mode GaN HEMT model
* Target: EPC2010C-class device (200 V, ~25 mOhm, Vth ~1.4 V)
*
* WHY BEHAVIOURAL: vendor SPICE subcircuits are LTspice-dialect and
* not portable to Spectre.  This model is written from datasheet
* quantities only, and is deliberately SYMMETRIC in the channel so
* that third-quadrant (reverse) conduction falls out of the physics
* instead of being bolted on.  GaN has no body diode: reverse
* conduction is channel conduction, and its drop is
*        V_SD = Vth + |V_GS,off| + I*Rds(on)
* which is exactly what the symmetric square law below produces.
* That coupling -- negative off-bias buys crosstalk margin and pays
* for it in dead-time conduction loss -- is the physical core of the
* whole project, so it must not be an approximation.
* ===================================================================

* smooth max(x,0) -- keeps the Newton solver happy at the kink
.func smax(x) {0.5*(x+sqrt(x*x+1e-4))}

* --- junction capacitances, realised as non-conducting diodes -------
* IS=1e-30 AND N=40 => no current at any bias we see.  N is large on
* purpose: with N=1 the gate-drain "capacitor" forward-conducts once
* V_G > V_D (i.e. whenever the device is ON) and clamps the gate.
* We want ONLY the C(V) law here.
* to ngspice, LTspice and Spectre, unlike behavioural C= expressions.
.model DGD D(IS=1e-30 N=40 CJO=150p VJ=1.0 M=0.65 FC=0.5)  $ Crss (Miller)
.model DDS D(IS=1e-30 N=40 CJO=800p VJ=1.0 M=0.5  FC=0.5)  $ Coss-Crss

.subckt EGAN d g s params: vth=1.4 bh=5.55 rg=0.4 cgs=350p lg=0.3n ls=0.15n rpar=100meg

* package / bond inductance
Lgint  g   gi  {lg}
Lsint  s   si  {ls}

* internal gate resistance
Rgint  gi  g2  {rg}

* --- symmetric square-law channel ----------------------------------
* I = bh * [ smax(Vgs-Vth)^2 - smax(Vgd-Vth)^2 ]
*   Vgd > Vth with Vds < 0  =>  reverse conduction, automatically.
Bch d si I = {bh} * ( smax(v(g2,si)-{vth})*smax(v(g2,si)-{vth})
+                   - smax(v(g2,d) -{vth})*smax(v(g2,d) -{vth}) )

* --- capacitances ---------------------------------------------------
Cgs   g2  si  {cgs}
Dgd   g2  d   DGD
Rgdp  g2  d   {rpar}                 $ parallel conductance: the cap-diodes carry
Rdsp  si  d   {rpar}                 $ essentially zero current (IS=1e-30,N=40),
*                                    $ which leaves those nodes ill-conditioned
*                                    $ next to BSIM4 devices. 100 MOhm draws 1 uA
*                                    $ at 100 V against a 10 A load: negligible.
Dds   si  d   DDS

.ends EGAN
